US08247429B2
2-(8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethanamine hydrochloride
A mixture of ethyl 9-(2-aminoethyl)-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate (105 mg, 0.384 mmol) in 12M hydrochloric acid (4 mL) was stirred at 110° C. for 14 hr, and concentrated under reduced pressure to give the title compound (91.1 mg, yield 99%).

reactant | ethyl 9-(2-aminoethyl)-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate | 0.384 mmol, 105 mg | NCCC1CCC2=C1C=1N(C=C2)N=CC1C(=O)OCC | C15H19N3O2
reactant | hydrochloric acid | 12M, 4 mL | Cl | ClH
product | 2-(8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethanamine hydrochloride | 91.1 mg, yield 99% | Cl.C=1C=NN2C1C1=C(C=C2)CCC1CCN | InChI=1S/C12H15N3.ClH/c13-6-3-9-1-2-10-5-8-15-11(12(9)10)4-7-14-15;/h4-5,7-9H,1-3,6,13H2;1H
